US04798827
Sodium methylate (0.2 g) is added under an atmosphere of nitrogen to (S)-2-dimethylamino-3-phenylpropanethiol acetate (crude; 20 g) dissolved in methanol (50 cc), and the mixture is heated under reflux for 2 hours. The mixture is then concentrated to dryness under reduced pressure (2.7 kPa) at 30° C. to give a liquid which is purified by distillation. (S)-2-Dimethylamino-3-phenylpropanethiol (2.4 g) is obtained in the form of a colourless liquid [b.p. (14 Pa)=95° C.], which is used as it is in the following reaction.

reactant | Sodium methylate | 0.2 g | C[O-].[Na+]
reactant | (S)-2-dimethylamino-3-phenylpropanethiol acetate | 20 g | C(C)(=O)O.CN([C@H](CS)CC1=CC=CC=C1)C
solvent | methanol | 50 cc | CO | CH4O
product | (S)-2-Dimethylamino-3-phenylpropanethiol | 2.4 g | CN([C@H](CS)CC1=CC=CC=C1)C | C11H17NS
